US05356897
A mixture of 2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine (56 mg) and sodium borohydride (16 mg) in ethanol (2 ml) was refluxed for 2 hours, cooled, and poured into ice water. The separated oil was extracted with dichloromethane. The extract was washed with brine, dried and concentrated in vacuo. The residue was crystallized from a mixture of ethyl acetate and ethyl ether to yield 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (44 mg).

reactant | 2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine | 56 mg | FC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1C1=CC=NC=C1 | C17H11FN4
reactant | sodium borohydride | 16 mg | [BH4-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 44 mg | FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC=NC=C1 | C17H15FN4
